US04782056
2-[3,5-Dichloro-4-(4-methylsulfonylphenoxy)phenyl]-1-methylhexahydro-1,2,4-triazine-3,5-dione
1 g of 2-[3,5-dichloro-4-(4-methylsulfonylphenoxy)phenyl]hexahydro-1,2,4-triazine-3,5-dione in 10 ml of N-methylpyrrolidone was heated at 140° to 160° C. with 10 ml of methyl iodide for four hours and, after addition of a further 10 ml of methyl iodide, for a further three hours. After the mixture had been cooled, water was added and an oil separated out, which slowly became solid and was recrystallized from methanol with the addition of active charcoal. Melting point 223° C.

reactant | 2-[3,5-dichloro-4-(4-methylsulfonylphenoxy)phenyl]hexahydro-1,2,4-triazine-3,5-dione | 1 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)S(=O)(=O)C)Cl)N1NCC(NC1=O)=O | C16H13Cl2N3O5S
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[3,5-Dichloro-4-(4-methylsulfonylphenoxy)phenyl]-1-methylhexahydro-1,2,4-triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)S(=O)(=O)C)Cl)N1N(CC(NC1=O)=O)C | C17H15Cl2N3O5S
